US04167567
A mixture of 2.00 g (0.005 mol) of 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine [U.S. Pat. No. 4,025,629] 0.57 g (0.005 mol) of 2-chloropyrazine, and 0.505 g (0.005 mol) of triethylamine is heated in 20 ml of ethylene glycol at 75° C. for 24 hours and at 95° C. for 24 hours. The mixture is partitioned with 1 N toluenesulfonic acid in water and methylene chloride. The aqueous phase is made basic and extracted with methylene chloride. The organic phase is dried with anhydrous sodium sulfate and concentrated. The residue is chromatographed (4% methanol/1/2% ammonium hydroxide/methylene chloride) to yield 0.92 g (38%) of 1-(2-pyrazinyl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine. This is re-crystallized from methylene chloride to give 0.48 g of the pure product of melting point 260°-261° C. The IR spectrum is consistent with the named structure.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.005 mol, 2.00 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | 2-chloropyrazine | 0.005 mol, 0.57 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | triethylamine | 0.005 mol, 0.505 g | C(C)N(CC)CC | C6H15N
solvent | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | 1-(2-pyrazinyl)-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.92 g, 38% | N1=C(C=NC=C1)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C25H21F3N6O
